US07276612B2
Anhydrous tetrahydrofuran (15 ml) was added to a mixture of 5-hydroxybenzofuran-2-carboxylic acid methyl ester (1.10 g, 5.7 mmol), triphenylphosphine (1.50 g, 5.7 mmol), and 1-(2-hydroxyethyl)-pyrrolidine (0.66 g, 5.7 mmol) under a nitrogen atmosphere. Diisopropyl azodicarboxylate (1.15 ml, 5.8 mmol) was slowly added to the solution at room temperature. After 2 days, the solvent was removed and the residue was dissolved in a 2:1 mixture of Et2O:EtOAc (150 ml). The solution was washed with 1.0M aqueous NaOH. The product was extracted into 1.0 M hydrochloric acid and the combined acid extracts were washed with Et2O. The extracts were cooled and the pH of the extracts was adjusted to pH 12 with 50% aqueous NaOH. The basic solution was extracted with CH2Cl2 and the organic layer was dried over anhydrous MgSO4, and concentrated to give 5-(2-pyrrolidin-1-yl-ethoxy)benzofuran-2-carboxylic acid methyl ester (0.96 g) as an amber colored solid.

reactant | 5-hydroxybenzofuran-2-carboxylic acid methyl ester | 5.7 mmol, 1.10 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)O | C10H8O4
reactant | triphenylphosphine | 5.7 mmol, 1.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)-pyrrolidine | 5.7 mmol, 0.66 g | OCCN1CCCC1 | C6H13NO
reactant | Diisopropyl azodicarboxylate | 5.8 mmol, 1.15 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-(2-pyrrolidin-1-yl-ethoxy)benzofuran-2-carboxylic acid methyl ester | 0.96 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OCCN2CCCC2 | C16H19NO4
